US08686022B2
7-bromo-1-methyl-1H-indole-2-carboxylic acid
7.37 g ethyl 7-bromo-1H-indole-2-carboxylate are dissolved in 50 ml N,N-dimethylformamide, cooled to 0° C. and combined with 1.16 g sodium hydride (60% in mineral oil). The mixture is stirred for 20 minutes and then 1.78 ml methyl iodide are added dropwise. Then the mixture is allowed to come up to ambient temperature and stirred for 12 hours. Then 80 ml of methanol and 27.5 ml 2 N sodium hydroxide solution are added and the mixture is stirred for 3 hours at ambient temperature. The methanol is eliminated in vacuo, the residue is mixed with water and the precipitate is suction filtered. The filtrate is washed twice with ethyl acetate and the aqueous phase is combined with sufficient 2 N hydrochloric acid to give a pH of 2. The precipitated solid is suction filtered, washed with water and dried.

reactant | ethyl 7-bromo-1H-indole-2-carboxylate | 7.37 g | BrC=1C=CC=C2C=C(NC12)C(=O)OCC | C11H10BrNO2
reactant | sodium hydride | 1.16 g | [H-].[Na+]
reactant | methyl iodide | 1.78 ml | CI | CH3I
reactant | sodium hydroxide | 2 N, 27.5 ml | [OH-].[Na+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 80 ml | CO | CH4O
product | 7-bromo-1-methyl-1H-indole-2-carboxylic acid | BrC=1C=CC=C2C=C(N(C12)C)C(=O)O | C10H8BrNO2
